US08222416B2
To a mixture of toluene-4-sulfonic acid-1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl ester (522 mg, 1 mmol), [4-(tert-butylaminocarbonyl)phenyl]boronic acid (442 mg, 2 mmol), and dichlorobis(triphenylphosphine)palladium (II) (70.2 mg, 0.1 mmol) in dioxane (5 mL) was added an aqueous sodium carbonate solution (2 M, 1.25 mL, 2.5 mmol). The resulting mixture was subjected to microwave irradiation for 2 h at 100° C. The mixture was diluted with ethyl acetate (250 mL), washed with a saturated aqueous sodium bicarbonate solution (2×50 mL), brine, dried over anhydrous sodium sulfate and then concentrated in vacuo. Purification by flash silica gel chromatography (silica gel from QingDao, 200-300 mesh, glass column from Shanghai SD company, 20% ethyl acetate/hexanes) to afford 4-[1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl]-N-tert-butyl-benzamide (300 mg, 56.9%) as a light yellow solid: LC/MS m/e calcd for C31H33N3O3S [M+H]+ 528.69, observed 528.0.

reactant | toluene-4-sulfonic acid-1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl ester | 1 mmol, 522 mg | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=CC2)C(=CC2CCCC2)OS(=O)(=O)C2=CC=C(C=C2)C | C27H26N2O5S2
reactant | [4-(tert-butylaminocarbonyl)phenyl]boronic acid | 2 mmol, 442 mg | C(C)(C)(C)NC(=O)C1=CC=C(C=C1)B(O)O | C11H16BNO3
reactant | sodium carbonate | 2.5 mmol, 2 M, 1.25 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
catalyst | dichlorobis(triphenylphosphine)palladium | 0.1 mmol, 70.2 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-[1-(1-benzenesulfonyl-1H-pyrrolo[2,3-b]pyridin-2-yl)-2-cyclopentyl-vinyl]-N-tert-butyl-benzamide | 300 mg, 56.9% | C1(=CC=CC=C1)S(=O)(=O)N1C(=CC=2C1=NC=CC2)C(=CC2CCCC2)C2=CC=C(C(=O)NC(C)(C)C)C=C2 | C31H33N3O3S
